US07115750B1
2-[(N,N-Dimethylamino)methyl]-6-[4-[(4-methoxyphenyl) sulfonylamino)benzyloxy]tetralin
THF solution (1 ml) of 4-methoxybenzenesulfonyl chloride (270 mg) was added dropwise to pyridine solution (6 ml) of 6-[(4-aminobenzyl)oxy]-2-[(N,N-dimethylamino)methyl]tetralin (300 mg) under ice-cooling, which was stirred for 15 minutes. After stirring at room temperature for further 15 minutes, 10% aqueous potassium carbonate solution was added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using alumina column chromatography (development solvent: ethyl acetate), and recrystallized (ethyl acetate-IPE) to give the titled compound (260 mg).

reactant | THF | 1 ml | C1CCOC1 | C4H8O
reactant | 4-methoxybenzenesulfonyl chloride | 270 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 6-[(4-aminobenzyl)oxy]-2-[(N,N-dimethylamino)methyl]tetralin | 300 mg | NC1=CC=C(COC=2C=C3CCC(CC3=CC2)CN(C)C)C=C1 | C20H26N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(N,N-Dimethylamino)methyl]-6-[4-[(4-methoxyphenyl) sulfonylamino)benzyloxy]tetralin | 260 mg | CN(C)CC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C27H32N2O4S
